US06964966B2
A mixture of 20% Pd(OH)2 on carbon (0.3 g) and 1-benzyl-4-dimethylamino-3,3-dimethylpiperidine (4.5 g, 6.0 mmol) in methanol (20 ml) was stirred in hydrogen atmosphere (1 atm.) for 48 hr at room temperature. The catalyst was filtered off, washed with methanol and filtrate was concentrated to afford 4-dimethylamino-3,3-dimethylpiperidine. Yield 1.6 g (95%), C9H20N2, m/z 157 (M+1).

reactant | 1-benzyl-4-dimethylamino-3,3-dimethylpiperidine | 6.0 mmol, 4.5 g | C(C1=CC=CC=C1)N1CC(C(CC1)N(C)C)(C)C | C16H26N2
solvent | methanol | 20 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | Pd(OH)2 on carbon | 0.3 g | [OH-].[OH-].[Pd+2]
product | 4-dimethylamino-3,3-dimethylpiperidine | CN(C1C(CNCC1)(C)C)C | C9H20N2
